* NMOS Id–Vgs sweep (Sky130) 
.options compatibility=hspice
.options kboltz=1.380649e-23 charge=1.60217663e-19
.options gmin=1e-15 abstol=1e-13 chgtol=1e-16 rtol=0.001
.options scale=1.0
.options temp=-196.15 tnom=-196.15
.options reltol=1e-5 abstol=1e-14 vntol=1e-7 gmin=1e-15
.options chgtol=1e-15 method=gear
.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k 

* Drain bias 
VDS DRAIN 0 0 
* Gate sweep source 
VGS GATE 0 1.85
* MOSFET 
XM1 DRAIN GATE 0 0 sky130_fd_pr__nfet_01v8_lvt w=1.6u l=0.15u

*nf=1 ad=0.384p as=0.384p pd=2.08u ps=2.08u

.control
  destroy all
set filetype=ascii
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta

  compose vds_vals values 0.01 0.37 0.74 1.11 1.45 1.85 
 
  foreach idx 0 1 2 3 4 5
    
    let current_vds = vds_vals[$idx]
    set vds_scalar = $&current_vds
    alter VDS = $vds_scalar

    save @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id] v(GATE)
   

    dc VGS 0 1.85 0.01

    let vgs_axis = v(GATE)
    let id_axis = @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id]
    let vds_axis = current_vds
    
    
    wrdata /home/oliviag/ngspice-skywater-sims/nfet_mod/l_0p15_w_1p6/vg_sweep/vgs_sweep_step{$idx}.txt vgs_axis id_axis vds_axis



    
  end 
.endc 

.end
